US07189851B2
A. Allyl 4-(4-fluorophenyl)-3-oxobutanoate
To a CH2Cl2 (210 mL) solution of 4-fluorophenyl acetic acid (32.28 g, 209.42 mmol) at 0° C. was added DMAP (25.58 g, 209.42 mmol), and Meldrum's Acid (30.18 g, 209.42 mmol) followed by DCC (43.21 g, 209.42 mmol). The reaction mixture was warmed to ambient temperature and stirred for 4 h. The reaction was filtered to remove the DCU and the filtrate washed with 1N HCl, H2O, and brine. The organics were dried (Na2SO4), filtered and concentrated to a yellow oil. The residue was redissolved in THF (200 mL) and allyl alcohol (14.38 mL, 211.51 mmol). The reaction mixture was refluxed for 3 h and then concentrated to deliver 47 g (95% yield) of the title compound as a pale yellow oil and used without further purification.

reactant | 4-fluorophenyl acetic acid | 209.42 mmol, 32.28 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | Meldrum's Acid | 209.42 mmol, 30.18 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | DCC | 209.42 mmol, 43.21 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | allyl alcohol | 211.51 mmol, 14.38 mL | C(C=C)O | C3H6O
catalyst | DMAP | 209.42 mmol, 25.58 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 210 mL | C(Cl)Cl | CH2Cl2
product | Allyl 4-(4-fluorophenyl)-3-oxobutanoate | 47 g, 95% yield | FC1=CC=C(C=C1)CC(CC(=O)OCC=C)=O | C13H13FO3
